US07173129B2
Ex-30A: To a solution of 4-acetylbenzenesulfonyl chloride (2.18 g, 10.0 mmol) in 100 ml of THF at 0° C., Et3N (2.5 g, 25 mmol) was added followed by O-methyl hydroxyamine hydrochloride (0.84 g, 10 mmol). The mixture was stirred for 1 hr at room temperature and then poured into water, and the precipitate was filtered and dried. Recrystallization from THF/hexanes gave 1.5 g (65.8%) of 4-acetyl-N-methoxybenzenesulfonamide as a white solid. 1H-NMR (300 MHz, CDCl3) δ 8.10 (d, J=8 Hz, 2H), 8.03 (d, J=8 Hz, 2H), 7.23 (brs, 1H), 3.82 (s, 3H), 2.66 (s, 3H).

reactant | 4-acetylbenzenesulfonyl chloride | 10.0 mmol, 2.18 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
reactant | Et3N | 25 mmol, 2.5 g | CCN(CC)CC | C6H15N
reactant | O-methyl hydroxyamine hydrochloride | 10 mmol, 0.84 g | Cl.CON
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-acetyl-N-methoxybenzenesulfonamide | 1.5 g, 65.8% | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NOC | C9H11NO4S
